US05216023
Acylation of L-lysine
5.61 g (0.034 mole) of L-lysine monohydrate was dissolved in 150 cm3 of distilled water in a round-bottom flask equipped with magnetic stirrer. The solution was heated to 80° C. and, with continuous stirring, Cu(OH)2.CuCO3.xH2O was added in small portions until it appeared to be dissolved. The possible excess of Cu(OH)2.CuCO3.xH2O, remained after stirring for 15 minutes, was filtered out. The solution was cooled to room temperature with continued stirring and 1.8 g (0.017 mole) of Na2CO3 then 12.2 g (0.034 mole) of the mixture of fatty acyl chlorides prepared as in Example 4 were added dropwise. After 1-hour stirring, the acylated copper complex precipitate was filtered then washed once with methanol and several times with water until a colorless was liquor had been obtained. In a round-bottom flask, 200 cm3 of methanol was added to the copper complex and the complex was decomposed by bubbling gaseous H2S through the mixture.

reactant | L-lysine monohydrate | 0.034 mole, 5.61 g | O.N[C@@H](CCCCN)C(=O)O
reactant | Na2CO3 | 0.017 mole, 1.8 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | methanol | 200 cm3 | CO | CH4O
solvent | water | 150 cm3 | O | H2O
product | L-lysine | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
